US08076345B2
5-Chloro-2-{4-[(S)-2-hydroxy-1-(6-trifluoromethyl-pyridin-3-yl)-ethylamino]-7,8-dihydro-5H-pyrido[4,3-d]pyrimidin-6-yl}-benzonitrile
A reaction mixture of 5-chloro-2-(4-chloro-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzonitrile (150 mg, 0.49 mmol) and (S)-2-amino-2-(6-(trifluoromethyl)pyridin-3-yl)ethanol (150 mg, 0.74 mmol) (prepared similarly according to the method for Intermediate 10) in acetonitrile (3 mL) and N,N-diisopropylethylamine (170 μL, 0.98 mmol) was subjected to microwave irradiation at 180° C. for 4 h. The reaction mixture was concentrated and the residue was purified by silica gel column (100% EtOAc and then 0-20% MeOH/CH2Cl2) followed by semi-preparative HPLC (100×20.2 mm, C18 column; 30-70% acetonitrile-water [10 mM Et2NH]) to yield a light yellow foam (44 mg).

reactant | 5-chloro-2-(4-chloro-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzonitrile | 0.49 mmol, 150 mg | ClC=1C=CC(=C(C#N)C1)N1CC2=C(N=CN=C2Cl)CC1 | C14H10Cl2N4
reactant | (S)-2-amino-2-(6-(trifluoromethyl)pyridin-3-yl)ethanol | 0.74 mmol, 150 mg | N[C@H](CO)C=1C=NC(=CC1)C(F)(F)F | C8H9F3N2O
reactant | N,N-diisopropylethylamine | 0.98 mmol, 170 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | 5-Chloro-2-{4-[(S)-2-hydroxy-1-(6-trifluoromethyl-pyridin-3-yl)-ethylamino]-7,8-dihydro-5H-pyrido[4,3-d]pyrimidin-6-yl}-benzonitrile | 44 mg | ClC=1C=CC(=C(C#N)C1)N1CC2=C(N=CN=C2N[C@H](CO)C=2C=NC(=CC2)C(F)(F)F)CC1 | C22H18ClF3N6O
